US06596498B1
M-Maleimidobenzoyl-N-Hydroxysuccinimide Ester (MBS) Coupling
To 500 μl of H2O were added 5 mg of the peptide and the pH was adjusted to 8.5 with NaOH, to obtain a final concentration of 10 mg/ml. Citraconic anhydride was diluted in H2O to a concentration of 10 mg/ml. 500 μl of the anhydride solution were added to the peptide solution 100 μl at a time with adjustment of the pH to 8.5 between each addition. The solution was then stirred constantly at room temperature for 1 hour. This was followed by the addition of 100 μl of 1M sodium phosphate buffer (pH 7.2) and then 900 μl of 100 mM sodium phosphate buffer (pH 7.2). Sulfo-MBS was diluted in H2O to a concentration of 25 mg/ml and 400 μl of this solution were added to the peptide solution to obtain an MBS concentration of about 5 mg/ml. This solution was stirred constantly at room temperature for 30 minutes. 6 μl of β-mercaptoethanol were added for a final β-mercaptoethanol concentration of 35 mM. The solution was stirred constantly at room temperature for 1 hour. KLH was dissolved in PBS at 3 mg/ml and 2.5 ml were added to the peptide solution. The solution was stirred constantly at room temperature for 3 hours and then dialysed against 1 litre of PBS, with three changes of the PBS. The final peptide concentration was about 1 mg/ml and the final KLH concentration was about 1.5 mg/ml.

reactant | NaOH | [OH-].[Na+]
reactant | Citraconic anhydride | C1(\C(\C)=C/C(=O)O1)=O | C5H4O3
reactant | sodium phosphate | 1M, 100 μl, pH 7.2 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | sodium phosphate | 100 mM, 900 μl, pH 7.2 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | Sulfo-MBS | C1C(C(=O)N(C1=O)OC(=O)C2=CC(=CC=C2)N3C(=O)C=CC3=O)S(=O)(=O)O | C15H10N2O9S
reactant | β-mercaptoethanol | 6 μl | SCCO | C2H6OS
solvent | H2O | O | H2O
solvent | H2O | 500 μl | O | H2O
product | M-Maleimidobenzoyl-N-Hydroxysuccinimide Ester | C1CC(=O)N(C1=O)OC(=O)C2=CC(=CC=C2)N3C(=O)C=CC3=O | C15H10N2O6
